US07683168B2
4-(1-{3-[(R)-((2S,5R)-4-Allyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperidin-4-ylamino)-butyric acid
The preceding ester, Example 141, was hydrolyzed as follows. A 50 mL round bottom flask equipped with a magnetic stir bar was charged with 0.70 g (1.2 mmol, 1 eq) of 4-[(1-{3-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)-methyl]-benzoyl}-4-piperidinylamino)methyl]butyric acid ethyl ester, 5.0 mL ethanol, and 3.0 mL (6 mmol, 5 eq) of 2 N aqueous NaOH solution. The reaction was stirred at room temperature for 3 days and neutralized with 3.0 mL (6 mmol, 5 eq) of 2 N aqueous sulfuric acid. After stirring for 30 minutes, the reaction was filtered to remove the sodium sulfate, and the solvent was removed in vacuo. The residue was dissolved in 25 mL of dichloromethane and extracted with 2×10 mL of water. The aqueous phase was diluted with 50 mL ethanol and concentrated in vacuo, leaving an off-white solid. This material was dissolved in 8 mL of water, filtered through a 0.2 □m polypropylene membrane, and lyophilized to give 0.488 g of the title compound as a white solid. Calculated for C32H44N4O4 1.5 H2SO4 1.5 H2O 0.25 Na2SO4: %C, 50.68; H, 6.65; N, 7.39. Found: %C, 50.73; H, 6.65; N, 7.39. 1H NMR (300 MHz, D2O with ˜0.1 N NaOD): 7.37-7.18 (m, 3H), 7.10 (d, J=7.5 Hz, 1H), 6.92 (t, J=7.0 Hz, I H), 6.45-6.36 (m, 2H), 6.28 (t, J=7.0 Hz, 1H), 5.76-5.62 (m, 1H), 5.10-5.04 (m, 3H), 4.27 (br d, J=12.5 Hz, 1H), 3.46 (m, 1H), {tilde over (□)}□dd, J=5.3, 13.4 Hz, 1H), {tilde over (□)}1t, J=13 Hz, 1H), 2.79-2.61 (m, 5H), 2.46-2.31 (m, 4H), 2.05-1.98 (m, 3H), 1.96-1.85 (m, 2H), 1.69-1.50 (m, 3H), 1.16-0.92 (m, 2H), 0.95 (distorted t, 3H), 0.81 (d, J=5.8 Hz, 3H).

reactant | 4-[(1-{3-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)-methyl]-benzoyl}-4-piperidinylamino)methyl]butyric acid ethyl ester | 1.2 mmol, 0.70 g, 1 eq | C(C)OC(CCCCNC1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN([C@@H](C1)C)CC=C)C)=O)=O | C35H50N4O4
reactant | ethanol | 5.0 mL | C(C)O | C2H6O
reactant | NaOH | 6 mmol, 2 N, 3.0 mL, 5 eq | [OH-].[Na+]
reactant | sulfuric acid | 6 mmol, 2 N, 3.0 mL, 5 eq | S(O)(O)(=O)=O | H2O4S
solvent | water | 8 mL | O | H2O
product | 4-(1-{3-[(R)-((2S,5R)-4-Allyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperidin-4-ylamino)-butyric acid | 0.488 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@H](C=1C=C(C(=O)N2CCC(CC2)NCCCC(=O)O)C=CC1)C1=CC(=CC=C1)O)C | C32H44N4O4
